US04145347
From 8.56 g. of ethyl 2-oxo-1-pyrrolidineacetate and 12.5 g. of 2-methyl-2-(1-piperidinyl)propylamine [J.A.C.S. 68, 13 (1946)], following the procedure of Example 9, there is obtained N-[2-methyl-2-(1-piperidinyl)propyl]-2-oxo-1-pyrrolidineacetamide; m.p. 69° C. after crystallization from heptane.

reactant | ethyl 2-oxo-1-pyrrolidineacetate | O=C1N(CCC1)CC(=O)OCC | C8H13NO3
reactant | 2-methyl-2-(1-piperidinyl)propylamine | CC(CN)(C)N1CCCCC1 | C9H20N2
product | N-[2-methyl-2-(1-piperidinyl)propyl]-2-oxo-1-pyrrolidineacetamide | CC(CNC(CN1C(CCC1)=O)=O)(C)N1CCCCC1 | C15H27N3O2
